US04719203
The p-aminophenylacetic acid described in Example 1 is converted into p-cyanophenylacetic acid by diazotisation in the manner described in J. Chem. Soc., 1941, 745, the yield being 47% of theory; m.p. 138°-141° C. It is then hydrogenated in the presence of platinum catalyst in hydrochloric acid solution to give 4-aminomethylcyclohexylacetic acid; yield 63% of theory; m.p. 120-123° C. (decomp.).

reactant | p-aminophenylacetic acid | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
reactant | p-cyanophenylacetic acid | C(#N)C1=CC=C(C=C1)CC(=O)O | C9H7NO2
catalyst | platinum | [Pt] | Pt
solvent | hydrochloric acid | Cl | ClH
product | 4-aminomethylcyclohexylacetic acid | yield 63% | NCC1CCC(CC1)CC(=O)O | C9H17NO2
